M0 (net010 IIN1 VSS VSS) nmos4
M1 (VDD net010 VOUT1 VSS) nmos4
R0 (VDD net010) resistor
R3 (VOUT1 IIN1) resistor
R2 (VOUT1 VSS) resistor
C1 (net010 VSS) capacitor
C0 (IIN1 VSS) capacitor
C2 (VOUT1 VSS) capacitor