M4 (net012 VIN2 IB1 VSS) nmos4
M1 (VDD VIN1 IB1 VSS) nmos4
M3 (VDD net012 VOUT1 VSS) nmos4
R2 (VOUT1 VSS) resistor
C1 (net012 VSS) capacitor
C2 (VOUT1 VSS) capacitor
M9 (net012 VB1 VDD VDD) pmos4