M11 (net055 VB1 net059 VSS) nmos4
M6 (VOUT2 IB2 VSS VSS) nmos4
M1 (VOUT1 IB2 VSS VSS) nmos4
M3 (net059 VIN1 IB1 VSS) nmos4
M10 (net060 VIN2 IB1 VSS) nmos4
M4 (net052 VB1 net060 VSS) nmos4
M5 (VOUT1 net055 VDD VDD) pmos4
M7 (VOUT2 net052 VDD VDD) pmos4
M12 (net055 VB2 net42 net42) pmos4
M13 (net052 VB2 net35 net35) pmos4
M14 (net42 VB3 VDD VDD) pmos4
M15 (net35 VB3 VDD VDD) pmos4
R5 (net030 VOUT2) resistor
R4 (VOUT1 net031) resistor
R1 (IB2 VOUT2) resistor
R0 (VOUT1 IB2) resistor
R2 (net061 VOUT2) resistor
R3 (VOUT1 net058) resistor
C3 (net060 net030) capacitor
C2 (net031 net059) capacitor
C0 (net052 net061) capacitor
C1 (net058 net055) capacitor