R0 (net019 net015) resistor
M3 (net03 net03 net011 VSS) nmos4
M1 (net014 net03 net019 VSS) nmos4
Q1 (VSS VSS net015 0) pnp
Q0 (VSS VSS net011 0) pnp
M4 (net014 net014 VDD VDD) pmos4
M6 (IOUT1 net014 VDD VDD) pmos4
M5 (net03 net014 VDD VDD) pmos4