Q3 (VSS net032 net019 0) pnp
Q0 (VSS VSS net02 0) pnp
Q2 (VSS VSS net032 0) pnp
Q1 (VSS net02 net022 0) pnp
M2 (net028 net028 net021 VSS) nmos4
M0 (net033 net028 net019 VSS) nmos4
R0 (net021 net022) resistor
M7 (net032 net033 VDD VDD) pmos4
M6 (net033 net033 VDD VDD) pmos4
M3 (net02 net033 VDD VDD) pmos4
M1 (net028 net033 VDD VDD) pmos4