M1 (net013 net013 VSS VSS) nmos4
M4 (net015 net013 net018 VSS) nmos4
M0 (net015 net012 VSS VSS) nmos4
M2 (net012 net016 VSS VSS) nmos4
R0 (net018 VSS) resistor
R2 (VDD net016) resistor
R1 (net016 net012) resistor
M3 (net013 net015 VDD VDD) pmos4
M13 (net015 net015 VDD VDD) pmos4