M2 (VOUT1 net31 VSS VSS) nmos4
M0 (net29 VOUT1 VSS VSS) nmos4
M1 (net31 net29 VSS VSS) nmos4
C2 (VOUT1 VSS) capacitor
C0 (net29 VSS) capacitor
C1 (net31 VSS) capacitor
R2 (VDD VOUT1) resistor
R0 (VDD net29) resistor
R1 (VDD net31) resistor