R5 (VDD net16) resistor
R4 (VDD net15) resistor
R3 (VDD net9) resistor
R2 (VDD net11) resistor
R1 (VDD net8) resistor
R0 (VDD net6) resistor
M5 (net15 net9 IB3 VSS) nmos4
M4 (net16 net11 IB3 VSS) nmos4
M3 (net11 net6 IB2 VSS) nmos4
M2 (net9 net8 IB2 VSS) nmos4
M1 (net8 net15 IB1 VSS) nmos4
M0 (net6 net16 IB1 VSS) nmos4