R0 (VDD net22) resistor
R3 (VDD net28) resistor
R2 (VDD net29) resistor
R1 (VDD net24) resistor
M5 (net25 VB1 VSS VSS) nmos4
M4 (net23 VB1 VSS VSS) nmos4
M3 (net29 net22 net25 VSS) nmos4
M2 (net28 net24 net25 VSS) nmos4
M1 (net24 VIN2 net23 VSS) nmos4
M0 (net22 VIN1 net23 VSS) nmos4