M1 (net13 VIN2 IB1 VDD) pmos4
M0 (net8 VIN1 IB1 VDD) pmos4
M5 (IOUT2 net13 VSS VSS) nmos4
M4 (net13 net13 VSS VSS) nmos4
M3 (IOUT1 net8 VSS VSS) nmos4
M2 (net8 net8 VSS VSS) nmos4