M1 (net10 VCONT2 IB1 VDD) pmos4
M0 (net18 VCONT1 IB1 VDD) pmos4
M9 (net16 net18 VSS VSS) nmos4
M8 (net14 net15 net16 VSS) nmos4
M7 (net15 net14 net16 VSS) nmos4
M6 (net14 VIN2 net13 VSS) nmos4
M5 (net15 VIN1 net13 VSS) nmos4
M4 (net13 net10 VSS VSS) nmos4
M3 (net10 net10 VSS VSS) nmos4
M2 (net18 net18 VSS VSS) nmos4
R1 (VDD net14) resistor
R0 (VDD net15) resistor