L1 (VDD net12) inductor
L0 (VDD net10) inductor
M1 (net12 net10 IB1 VSS) nmos4
M0 (net10 net12 IB1 VSS) nmos4
D1 (VCONT1 net12) diode
D0 (VCONT1 net10) diode