I0 (VIN1 VOUT2 VDD VSS net20) XOR
R0 (net20 net7) resistor
C0 (net7 VSS) capacitor
M1 (VOUT2 VOUT1 IB1 VSS) nmos4
M0 (VOUT1 VOUT2 IB1 VSS) nmos4
L1 (VDD VOUT2) inductor
L0 (VDD VOUT1) inductor
D1 (net7 VOUT2) diode
D0 (net7 VOUT1) diode