I1 (net36 net35 VDD VSS) INVERTER
M5 (net31 VSS net34 VDD) pmos4
M1 (VCONT1 net35 net38 VDD) pmos4
M0 (net38 VB2 VDD VDD) pmos4
M6 (net34 VDD net31 VSS) nmos4
M3 (net37 VB1 VSS VSS) nmos4
M2 (VCONT1 net31 net37 VSS) nmos4
C0 (VCONT1 VSS) capacitor
I0 (LOGICA1 LOGICB1 net36 net34 VDD VSS) PFD