R2 (net07 VSS) resistor
R1 (net04 VSS) resistor
R0 (VIN1 net05) resistor
L0 (VDD VOUT1) inductor
C1 (IB1 VSS) capacitor
C0 (net05 net04) capacitor
M0 (IB1 IB1 net07 VSS) nmos4
M2 (VOUT1 IB1 net04 VSS) nmos4