M0 (net022 net07 net1 VSS) nmos4
M2 (VOUT1 VDD net022 VSS) nmos4
C0 (VDD VOUT1) capacitor
L2 (net06 net07) inductor
L1 (net1 VSS) inductor
L0 (VDD VOUT1) inductor
R0 (VIN1 net06) resistor
R2 (VDD VOUT1) resistor