C3 (VSS net013) capacitor
C2 (VIN1 net010) capacitor
C1 (IB1 VSS) capacitor
C0 (VDD VOUT1) capacitor
L2 (net010 net013) inductor
L0 (VDD VOUT1) inductor
L1 (net012 VSS) inductor
M1 (IB1 IB1 VSS VSS) nmos4
M2 (VOUT1 VDD net011 VSS) nmos4
M0 (net011 net013 net012 VSS) nmos4
R1 (net013 IB1) resistor
R2 (VDD VOUT1) resistor