L0 (IB1 net5) inductor
M0 (VOUT1 VIN1 IB1 VSS) nmos4
M1 (VOUT2 VIN2 IB1 VSS) nmos4
R0 (VDD VOUT1) resistor
R1 (VDD VOUT2) resistor
C1 (net5 VSS) capacitor