M11 (net09 VRF2 VSS VSS) nmos4
M10 (net08 VRF1 VSS VSS) nmos4
M9 (VIF2 VLO2 net09 VSS) nmos4
M8 (VIF2 VLO1 net08 VSS) nmos4
M7 (VIF1 VLO2 net08 VSS) nmos4
M6 (VIF1 VLO1 net09 VSS) nmos4
R3 (VDD VIF2) resistor
R2 (VDD VIF1) resistor