M0 (net5 VRF1 VSS VSS) nmos4
M3 (VIF1 VLO1 net5 VSS) nmos4
M2 (VIF2 VLO2 net5 VSS) nmos4
R0 (VDD VIF1) resistor
R1 (VDD VIF2) resistor
M1 (net5 VB1 VDD VDD) pmos4