C0 (IB1 net09) capacitor
M1 (net09 VRF1 net06 net06) nmos4
M3 (VIF1 VLO1 IB1 VSS) nmos4
M2 (VIF2 VLO2 IB1 VSS) nmos4
L0 (net09 VDD) inductor
R0 (VDD VIF1) resistor
R1 (VDD VIF2) resistor