R4 (VDD VIF1) resistor
R3 (VDD VIF2) resistor
M5 (VIF1 VLO1 IB1 VSS) nmos4
M4 (VIF2 VLO2 IB1 VSS) nmos4
C1 (IB1 IIN1) capacitor
L1 (IIN1 VDD) inductor