M1 (VOUT2 VLO1 VBB1 VSS) nmos4
M3 (VOUT2 VLO2 VBB2 VSS) nmos4
M0 (VOUT1 VLO2 VBB1 VSS) nmos4
M2 (VOUT1 VLO1 VBB2 VSS) nmos4
C1 (VOUT2 VSS) capacitor
C0 (VSS VOUT1) capacitor
C3 (VOUT1 VLO2) capacitor
C2 (VOUT2 VLO2) capacitor