M10 (net014 VIN1 IB1 VSS) nmos4
M11 (net015 VIN2 IB1 VSS) nmos4
M7 (VRF1 VLO2 net014 VSS) nmos4
M6 (VRF1 VLO1 net015 VSS) nmos4
M8 (VRF2 VLO1 net014 VSS) nmos4
M9 (VRF2 VLO2 net015 VSS) nmos4
L1 (VDD VRF2) inductor
L0 (VDD VRF1) inductor