R2 (VDD VOUT1) resistor
R3 (VDD VOUT2) resistor
M3 (VOUT1 VLO1 IB1 VSS) nmos4
M5 (VOUT2 VLO2 IB1 VSS) nmos4
L2 (VDD VOUT1) inductor
L3 (VDD VOUT2) inductor