M3 (VOUT1 VIN1 IB1 VSS) nmos4
M5 (VOUT2 VIN2 IB1 VSS) nmos4
R2 (VDD VOUT1) resistor
R3 (VDD VOUT2) resistor
L2 (VDD VOUT1) inductor
L3 (VDD VOUT2) inductor
C1 (VDD VOUT2) capacitor
C0 (VDD VOUT1) capacitor