C0 (VDD net013) capacitor
C1 (VDD net015) capacitor
R0 (VDD net015) resistor
R2 (VDD net013) resistor
M4 (VCONT1 net015 VCONT1 VSS) nmos4
M1 (VCONT1 net013 VCONT1 VSS) nmos4
M3 (net013 net015 IB1 VSS) nmos4
M0 (net015 net013 IB1 VSS) nmos4
L0 (VDD net015) inductor
L2 (VDD net013) inductor