R3 (net023 VB1) resistor
R1 (net01 VB1) resistor
C3 (net021 net023) capacitor
C2 (net04 net01) capacitor
M0 (net04 net021 IB1 VSS) nmos4
M3 (net021 net04 IB1 VSS) nmos4
M1 (VCONT1 net01 VCONT1 VSS) nmos4
M4 (VCONT1 net023 VCONT1 VSS) nmos4
L2 (VDD net021) inductor
L0 (VDD net04) inductor