L0 (VDD net011) inductor
L2 (VDD net08) inductor
L1 (net09 IB1) inductor
M3 (net08 net011 net09 VSS) nmos4
M0 (net011 net08 net09 VSS) nmos4
C2 (VDD net09) capacitor
C1 (IB1 VSS) capacitor