L2 (VDD net010) inductor
L0 (VDD net07) inductor
M2 (net07 VIN1 IB2 VSS) nmos4
M1 (net010 VIN2 IB2 VSS) nmos4
M0 (net07 net010 IB1 VSS) nmos4
M3 (net010 net07 IB1 VSS) nmos4