M1 (VCONT1 net019 VCONT1 VSS) nmos4
M4 (VCONT1 net020 VCONT1 VSS) nmos4
M3 (net019 net020 IB1 VSS) nmos4
M0 (net020 net019 IB1 VSS) nmos4
L1 (net03 net020) inductor
L0 (net03 net019) inductor
R0 (VDD net03) resistor