M1 (net8 VOUT1 net8 VSS) nmos4
M4 (net8 VOUT2 net8 VSS) nmos4
M3 (VOUT1 VOUT2 VSS VSS) nmos4
M0 (VOUT2 VOUT1 VSS VSS) nmos4
L1 (VIN1 VOUT2) inductor
L0 (VIN1 VOUT1) inductor
C0 (net8 VSS) capacitor
R0 (net017 net8) resistor
I4 (VDD VIN1 VOUT2 net017 VSS) XOR