M13 (net34 VSS LOGICQB1 VDD) pmos4
M3 (net030 VB2 VDD VDD) pmos4
M2 (VCONT1 net028 net030 VDD) pmos4
M6 (LOGICQB1 VDD net34 VSS) nmos4
M1 (net031 VB1 VSS VSS) nmos4
M0 (VCONT1 net34 net031 VSS) nmos4
C1 (net029 VSS) capacitor
R0 (net029 VCONT1) resistor
I5 (LOGICQA1 net028 VDD VSS) INVERTER