M4 (net04 net04 VDD VDD) pmos4
M2 (VCONT3 VCONT1 net026 VDD) pmos4
M3 (net026 net04 VDD VDD) pmos4
M6 (IB1 IB1 VSS VSS) nmos4
M5 (net04 IB1 VSS VSS) nmos4
M0 (VCONT3 VCONT2 net027 VSS) nmos4
M1 (net027 IB1 VSS VSS) nmos4
C0 (VCONT3 VSS) capacitor
C1 (net025 VSS) capacitor
R0 (net025 VCONT3) resistor